US07910585B2
To a solution of 3-Methoxy-2-methyl-6-nitro-benzoic acid in 45 mL of methanol, Cs2CO3 (7.8 g, 24 mmol) is added and stirred at the room temperature for 1 hour. The solution is concentrated under reduced pressure then the resulting yellow solid is suspended in 45 ml of DMF. Iodomethane (1.5 ml 24 mol) is added at 0° C. and stirred at the room temperature for 21 hours. Water is added to the solution and the precipitates are collected and washed by water to give 3-Methoxy-2-methyl-6-nitro-benzoic acid methyl ester (4.0 g) as orange solid in 81% yields. 1H-NMR (400 MHz, δ, ppm) CDCl3: 2.2 (s, 3H), 3.93 (s, 3H), 3.98 (s, 3H), 6.91 (d, 1H), 8.11 (d, 1H).

reactant | 3-Methoxy-2-methyl-6-nitro-benzoic acid | COC=1C(=C(C(=O)O)C(=CC1)[N+](=O)[O-])C | C9H9NO5
reactant | Cs2CO3 | 24 mmol, 7.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Iodomethane | 24 mol, 1.5 ml | IC | CH3I
reactant | Water | O | H2O
solvent | methanol | 45 mL | CO | CH4O
product | 3-Methoxy-2-methyl-6-nitro-benzoic acid methyl ester | 4.0 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])OC)C)=O | C10H11NO5
